$This UUT was automatically generated by:
$/work_bgfs/i/iliabautista/2-Research/2-Simulations/1-HDL/hspice/inverter_script.py

$Netlist of test
.lib '../models' ptm7lstp

$Power Sources
vdd vdd  gnd 0.7V
.subckt inverter in out vdd
$FETs
xpfet out in vdd vdd pfet l=7n nfin=1000m
xnfet out in gnd gnd nfet l=7n nfin=1000m
.ends

vin_0 inb_0 gnd  PULSE(0.7V 0V 0ns 50ps 50ps 1.0n 2n)
xinput_0 inb_0 outin_00 vdd inverter
vin_1 inb_1 gnd  PULSE(0.7V 0V 0ns 50ps 50ps 2.0n 4n)
xinput_1 inb_1 outin_01 vdd inverter
vin_2 inb_2 gnd  PULSE(0.7V 0V 0ns 50ps 50ps 4.0n 8n)
xinput_2 inb_2 outin_02 vdd inverter

xinverter00 outin_00 outin_10 vdd inverter
xinverter10 outin_10 outin_20 vdd inverter
xinverter20 outin_20 outin_30 vdd inverter
xinverter01 outin_01 outin_11 vdd inverter
xinverter11 outin_11 outin_21 vdd inverter
xinverter21 outin_21 outin_31 vdd inverter
xinverter02 outin_02 outin_12 vdd inverter
xinverter12 outin_12 outin_22 vdd inverter
xinverter22 outin_22 outin_32 vdd inverter

$Output Loads
xoutput_00 outin_40 outb_00 vdd inverter
xoutput_10 outin_41 outb_10 vdd inverter
xoutput_20 outin_42 outb_20 vdd inverter

.measure tran trf_delay_001 trig v(outin_00) val=0.35 rise=1 targ v(outin_10) val=0.35 fall=1
.measure tran tfr_delay_001 trig v(outin_00) val=0.35 fall=1 targ v(outin_10) val=0.35 rise=1
.measure tran trf_delay_002 trig v(outin_00) val=0.35 rise=2 targ v(outin_10) val=0.35 fall=2
.measure tran tfr_delay_002 trig v(outin_00) val=0.35 fall=2 targ v(outin_10) val=0.35 rise=2
.measure tran trf_delay_003 trig v(outin_00) val=0.35 rise=3 targ v(outin_10) val=0.35 fall=3
.measure tran tfr_delay_003 trig v(outin_00) val=0.35 fall=3 targ v(outin_10) val=0.35 rise=3
.measure tran trf_delay_004 trig v(outin_00) val=0.35 rise=4 targ v(outin_10) val=0.35 fall=4
.measure tran tfr_delay_004 trig v(outin_00) val=0.35 fall=4 targ v(outin_10) val=0.35 rise=4
.measure tran trf_delay_101 trig v(outin_10) val=0.35 rise=1 targ v(outin_20) val=0.35 fall=1
.measure tran tfr_delay_101 trig v(outin_10) val=0.35 fall=1 targ v(outin_20) val=0.35 rise=1
.measure tran trf_delay_102 trig v(outin_10) val=0.35 rise=2 targ v(outin_20) val=0.35 fall=2
.measure tran tfr_delay_102 trig v(outin_10) val=0.35 fall=2 targ v(outin_20) val=0.35 rise=2
.measure tran trf_delay_103 trig v(outin_10) val=0.35 rise=3 targ v(outin_20) val=0.35 fall=3
.measure tran tfr_delay_103 trig v(outin_10) val=0.35 fall=3 targ v(outin_20) val=0.35 rise=3
.measure tran trf_delay_104 trig v(outin_10) val=0.35 rise=4 targ v(outin_20) val=0.35 fall=4
.measure tran tfr_delay_104 trig v(outin_10) val=0.35 fall=4 targ v(outin_20) val=0.35 rise=4
.measure tran trf_delay_201 trig v(outin_20) val=0.35 rise=1 targ v(outin_30) val=0.35 fall=1
.measure tran tfr_delay_201 trig v(outin_20) val=0.35 fall=1 targ v(outin_30) val=0.35 rise=1
.measure tran trf_delay_202 trig v(outin_20) val=0.35 rise=2 targ v(outin_30) val=0.35 fall=2
.measure tran tfr_delay_202 trig v(outin_20) val=0.35 fall=2 targ v(outin_30) val=0.35 rise=2
.measure tran trf_delay_203 trig v(outin_20) val=0.35 rise=3 targ v(outin_30) val=0.35 fall=3
.measure tran tfr_delay_203 trig v(outin_20) val=0.35 fall=3 targ v(outin_30) val=0.35 rise=3
.measure tran trf_delay_204 trig v(outin_20) val=0.35 rise=4 targ v(outin_30) val=0.35 fall=4
.measure tran tfr_delay_204 trig v(outin_20) val=0.35 fall=4 targ v(outin_30) val=0.35 rise=4
.measure tran trf_delay_011 trig v(outin_01) val=0.35 rise=1 targ v(outin_11) val=0.35 fall=1
.measure tran tfr_delay_011 trig v(outin_01) val=0.35 fall=1 targ v(outin_11) val=0.35 rise=1
.measure tran trf_delay_012 trig v(outin_01) val=0.35 rise=2 targ v(outin_11) val=0.35 fall=2
.measure tran tfr_delay_012 trig v(outin_01) val=0.35 fall=2 targ v(outin_11) val=0.35 rise=2
.measure tran trf_delay_111 trig v(outin_11) val=0.35 rise=1 targ v(outin_21) val=0.35 fall=1
.measure tran tfr_delay_111 trig v(outin_11) val=0.35 fall=1 targ v(outin_21) val=0.35 rise=1
.measure tran trf_delay_112 trig v(outin_11) val=0.35 rise=2 targ v(outin_21) val=0.35 fall=2
.measure tran tfr_delay_112 trig v(outin_11) val=0.35 fall=2 targ v(outin_21) val=0.35 rise=2
.measure tran trf_delay_211 trig v(outin_21) val=0.35 rise=1 targ v(outin_31) val=0.35 fall=1
.measure tran tfr_delay_211 trig v(outin_21) val=0.35 fall=1 targ v(outin_31) val=0.35 rise=1
.measure tran trf_delay_212 trig v(outin_21) val=0.35 rise=2 targ v(outin_31) val=0.35 fall=2
.measure tran tfr_delay_212 trig v(outin_21) val=0.35 fall=2 targ v(outin_31) val=0.35 rise=2
.measure tran trf_delay_021 trig v(outin_02) val=0.35 rise=1 targ v(outin_12) val=0.35 fall=1
.measure tran tfr_delay_021 trig v(outin_02) val=0.35 fall=1 targ v(outin_12) val=0.35 rise=1
.measure tran trf_delay_121 trig v(outin_12) val=0.35 rise=1 targ v(outin_22) val=0.35 fall=1
.measure tran tfr_delay_121 trig v(outin_12) val=0.35 fall=1 targ v(outin_22) val=0.35 rise=1
.measure tran trf_delay_221 trig v(outin_22) val=0.35 rise=1 targ v(outin_32) val=0.35 fall=1
.measure tran tfr_delay_221 trig v(outin_22) val=0.35 fall=1 targ v(outin_32) val=0.35 rise=1
.print TRAN V(outin_00) V(outin_10)
.print TRAN V(outin_10) V(outin_20)
.print TRAN V(outin_20) V(outin_30)
.print TRAN V(outin_01) V(outin_11)
.print TRAN V(outin_11) V(outin_21)
.print TRAN V(outin_21) V(outin_31)
.print TRAN V(outin_02) V(outin_12)
.print TRAN V(outin_12) V(outin_22)
.print TRAN V(outin_22) V(outin_32)
.measure tran inv_avg_power00 avg p(xinverter00) from=0ns to=8ns
.measure tran peakpower00 max p(xinverter00)
.option post=2

$Analysis
.tran 10ps 8ns

.measure tran power_avg avg power
.measure tran avg_power avg p(vdd) from=0ns to=8ns
.end